US08557872B2
To a suspension of 2-isopropoxy-4-trifluoromethyl-benzoic acid isopropyl ester (35 mg, 0.12 mmol) in THF (1 ml) was added a solution of 0.5 N-LiOH (2 eq), and the resulting mixture was stirred for 2 hours at room temperature. The reaction mixture was acidified with 1N HCl, and then extracted with EtOAc. The combined organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was vacuum dried to yield the 2-isopropoxy-4-trifluoromethyl-benzoic acid. To an ice-cold suspension of 2-isopropoxy-4-trifluoromethyl-benzoic acid and N,O-dimethylhydroxylamine hydrochloride (13 mg, 0.132 mmol) in CH2Cl2 (1 mL) was added N-methylmorpholine (0.015 ml, 0.132 mmol), and the resulting mixture was stirred for 5 minutes, to which were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (26 mg, 0.132 mmol). The resulting mixture was stirred for 2 hours at room temperature, and then diluted with EtOAc. The organic layer was washed with 1N HCl, water, and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue was purified by chromatography (Hex/EtOAc=3/1) to give the title compound (28 mg, 80%).

reactant | 2-isopropoxy-4-trifluoromethyl-benzoic acid isopropyl ester | 0.12 mmol, 35 mg | C(C)(C)OC(C1=C(C=C(C=C1)C(F)(F)F)OC(C)C)=O | C14H17F3O3
reactant | LiOH | 2 eq | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-isopropoxy-4-trifluoromethyl-benzoic acid | C(C)(C)OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C11H11F3O3
